US08383683B2
To an ice-water cooled solution of 2,4-dichloro-1-methanesulfinylmethoxy-benzene (8 g, 33.46 mmol) in DCM (100 mL) was added dropwise a solution of acetylchloride (2.6 mL, 36.80 mmol) in DCM (10 mL). The reaction mixture was allowed to reach room temperature during 2 hrs at which time the volatiles were evaporated in vacuo affording ˜7 g of crude 2,4-dichloro-1-chloromethoxy-benzene which was used without further purification.

reactant | 2,4-dichloro-1-methanesulfinylmethoxy-benzene | 33.46 mmol, 8 g | ClC1=C(C=CC(=C1)Cl)OCS(=O)C | C8H8Cl2O2S
reactant | acetylchloride | 36.80 mmol, 2.6 mL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,4-dichloro-1-chloromethoxy-benzene | ˜7 g | ClC1=C(C=CC(=C1)Cl)OCCl | C7H5Cl3O
